US06933387B2
d) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-5-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester
The title compound, m.p.: 103-105° C., EI-MS: m/e=428.1(M+) and α D 20 = - 40.3 , was prepared in accordance with the general method of example 12b) from 5-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester. e) (R)-4,8-Dimethyl-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one

reactant | 5-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)C)C(F)(F)F | C13H12F3NO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-5-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC(=C(C=C2C1)C)C(F)(F)F)[C@@H](CNC(=O)OC(C)(C)C)C | C21H27F3N2O4
